.title KiCad schematic
R2 GND Net-_R2-Pad2_ 1meg
v2 Net-_X1-Pad8_ GND DC
R1 GND Net-_R1-Pad2_ 1meg
R3 GND Net-_R3-Pad2_ 1meg
Vv1 vin GND sin(2.5 1.0 1k)
X1 vout vout vin GND Net-_R1-Pad2_ Net-_R2-Pad2_ Net-_R3-Pad2_ Net-_X1-Pad8_ LM358B
.end
